US07834051B2
2-(trifluoromethyl)-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile
Using 4-iodo-2-(trifluoromethyl)benzonitrile (957 mg), 5 3,3,5-trimethylpyrrolidine-2,4-dione (350 mg), cesium carbonate (1.21 g), tris(dibenzylideneacetone)dipalladium(0) (227 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (287 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 452 mg, 59%).

reactant | 4-iodo-2-(trifluoromethyl)benzonitrile | 957 mg | IC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F3IN
reactant | 3,3,5-trimethylpyrrolidine-2,4-dione | 350 mg | CC1(C(NC(C1=O)C)=O)C | C7H11NO2
reactant | cesium carbonate | 1.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 287 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 227 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(trifluoromethyl)-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | FC(C1=C(C#N)C=CC(=C1)N1C(C(C(C1C)=O)(C)C)=O)(F)F | C15H13F3N2O2
